US07947727B2
N-Ethyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]-3-thiophenecarboxamide
Prepared similarly to Example 1 from 3-thiophenecarboxylic acid and 3-(ethylamino)-1,1,1-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-propanol.

reactant | 3-thiophenecarboxylic acid | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | 3-(ethylamino)-1,1,1-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-propanol | C(C)NCC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F | C19H20F4N4O
product | N-Ethyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]-3-thiophenecarboxamide | C(C)N(C(=O)C1=CSC=C1)CC(C(F)(F)F)(O)CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F | C24H22F4N4O2S
